US04857530
4-(2-Propynylamino)-N-1H-tetrazol-5-yl-benzamide
A mixture of 20 g (0.097 mol) of 4-fluoro-N-1H-tetrazol-5-ylbenzamide, 12.8 ml (0.193 mol) of propargylamine, 5.6 g of anhydrous potassium fluoride, and 13 g of potassium carbonate, in 320 ml of dimethylsulfoxide is heated at 50°-70° C. for six to twenty hours. The reaction is poured into water and the precipitate is collected, washed with water, and dried in vacuo to give the title compound.

reactant | 4-fluoro-N-1H-tetrazol-5-ylbenzamide | 0.097 mol, 20 g | FC1=CC=C(C(=O)NC2=NN=NN2)C=C1 | C8H6FN5O
reactant | propargylamine | 0.193 mol, 12.8 ml | C(C#C)N | C3H5N
reactant | potassium fluoride | 5.6 g | [F-].[K+]
reactant | potassium carbonate | 13 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 320 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(2-Propynylamino)-N-1H-tetrazol-5-yl-benzamide | C(C#C)NC1=CC=C(C(=O)NC2=NN=NN2)C=C1 | C11H10N6O
